US08404678B2
To a solution of 4-(2-{2-[2-(2-tert-Butoxycarbonyl-ethoxy)-ethoxy]-ethoxy}-ethoxy)-pyridine-2,6-dicarboxylic acid diethyl ester (1.36 g) in absolute ethanol (72 mL) was added sodium borohydride (309 mg) and calcium chloride (921 mg). After stirring for 30 mn, hydrogen evolution ceased, and reaction was quenched with water. After concentration under reduced pressure, ammonium chloride was added and the aqueous phase was extracted three times with ethyl acetate. The combined organic solutions were dried over magnesium sulfate, and concentrated in vacuo to a residue. The residue was purified by silica gel chromatography (Analogix Super Flash SiO2 SF25-80 g), using gradient elution with a mixture of DCM (A) and MeOH (B) (gradient: 100% A down to 90% A: 10% B) to give 3-(2-{2-[2-(2,6-Bis-hydroxymethyl-pyridin-4-yloxy)-ethoxy]-ethoxy}-ethoxy)-propionic acid tert-butyl ester (720 mg): LC/MS (Method A3): ES: m/z 416 (M+H)+; RT=0.52 min

reactant | 4-(2-{2-[2-(2-tert-Butoxycarbonyl-ethoxy)-ethoxy]-ethoxy}-ethoxy)-pyridine-2,6-dicarboxylic acid diethyl ester | 1.36 g | C(C)OC(=O)C1=NC(=CC(=C1)OCCOCCOCCOCCC(=O)OC(C)(C)C)C(=O)OCC | C24H37NO10
reactant | sodium borohydride | 309 mg | [BH4-].[Na+]
reactant | calcium chloride | 921 mg | [Cl-].[Ca+2].[Cl-]
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 72 mL | C(C)O | C2H6O
product | 3-(2-{2-[2-(2,6-Bis-hydroxymethyl-pyridin-4-yloxy)-ethoxy]-ethoxy}-ethoxy)-propionic acid tert-butyl ester | 720 mg | C(C)(C)(C)OC(CCOCCOCCOCCOC1=CC(=NC(=C1)CO)CO)=O | C20H33NO8
